US04268676
1,1a,2,8,8a,8b-Hexahydro-8-(hydroxymethyl)-8a-methoxy-1,5-dimethyl-6-propargylamino-azirino[2',3':3,4]pyrrolo-[1,2-a]indole-4,7-dione carbamate
A solution of 107 mg (0.27 mmol) of N-methylmitomycin A in 10 ml of anhydrous methanol was stirred with 85 mg (1.5 mmol) of propargylamine for 3 hours, whereupon TLC indicated no remaining starting material. The solvent was removed by evaporation under reduced pressure and the residue was chromatographed using silica-gel as adsorbent. The fraction obtained by eluting the column with ethyl acetate was evaporated under reduced pressure. Recrystallization from a mixture of methylene chloride and hexane gave 52.2 mg (50% yield) of the desired product as purple-colored crystals having a melting point of 86°-87° (decomposing) and providing the following analysis:

reactant | N-methylmitomycin A | 0.27 mmol, 107 mg | CC1=C(C(=O)C2=C(C1=O)N3C[C@H]4[C@@H]([C@@]3([C@@H]2COC(=O)N)OC)N4C)OC | C17H21N3O6
reactant | propargylamine | 1.5 mmol, 85 mg | C(C#C)N | C3H5N
solvent | methanol | 10 ml | CO | CH4O
product | 1,1a,2,8,8a,8b-Hexahydro-8-(hydroxymethyl)-8a-methoxy-1,5-dimethyl-6-propargylamino-azirino[2',3':3,4]pyrrolo-[1,2-a]indole-4,7-dione carbamate | 52.2 mg, 50% yield | C(N)(O)=O.OCC1C2(N(C=3C(C(=C(C(C13)=O)NCC#C)C)=O)CC1C2N1C)OC | InChI=1S/C18H21N3O4.CH3NO2/c1-5-6-19-13-9(2)15(23)14-12(16(13)24)10(8-22)18(25-4)17-11(20(17)3)7-21(14)18;2-1(3)4/h1,10-11,17,19,22H,6-8H2,2-4H3;2H2,(H,3,4)
